US07223767B2
2-Methyl-8,8-dipropyl-5,6,7,8-tetrahydro-3H-quinazolin-4-one (180 mg, 0.72 mmol) and POCl3 (3 mL) were combined and heated under reflux for 6 hrs. The excess POCl3 was evaporated under reduced pressure. The residue was taken up in CH2Cl2 (25 mL), washed with cold water, sat. NaHCO3 solution., brine and dried over MgSO4. The CH2Cl2 solution was passed through a short (22 mm×20 cm) SiO2 column, eluting with CH2Cl2. Evaporation afforded 169 mg (87%) of 4-chloro-2-methyl-8,8-dipropyl-5,6,7,8-tetrahydroquinazoline as a pale yellow viscous liquid. MS (ES+) 267 (M+H).

reactant | 2-Methyl-8,8-dipropyl-5,6,7,8-tetrahydro-3H-quinazolin-4-one | 0.72 mmol, 180 mg | CC1=NC=2C(CCCC2C(N1)=O)(CCC)CCC | C15H24N2O
reactant | POCl3 | 3 mL | O=P(Cl)(Cl)Cl | Cl3OP
product | 4-chloro-2-methyl-8,8-dipropyl-5,6,7,8-tetrahydroquinazoline | 169 mg, 87% | ClC1=NC(=NC=2C(CCCC12)(CCC)CCC)C | C15H23ClN2
